US08138189B2
Step 6: 4-{2,3-Dichloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-benzoic acid methyl ester
In analogy to Example 151, step 8, 5-[2-(2,3-dichloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one was reacted with 4-methoxycarbonylphenylboronic acid, copper-(II)-acetate and pyridine to give the title compound as a colorless solid. MS (m/e, ISP neg. ion)=528.2 [M−H+].

reactant | 5-[2-(2,3-dichloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | ClC1=C(C=CC(=C1Cl)O)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C16H14Cl2F3NO3
reactant | 4-methoxycarbonylphenylboronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
catalyst | copper-(II)-acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-{2,3-Dichloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OC1=C(C(=C(C=C1)C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C)Cl)Cl)=O | C24H20Cl2F3NO5
